US05728370
Bis-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)-mono-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole-4-yl)methanol
2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole (5.15 g, 23.2 mmol) was dissolved in dry ether (40.0 mL) in a dried, argon filled reaction vessel. The solution was cooled to 0° C. and n-butyllithium (9.29 mL, 2.5M in hexane) was added. After stirring for 15 min at ambient temperature, the mixture was cooled to 0° C. and 4-methoxycarbonyl-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole)(4.0 g, 11.6 mmol) was added portionwise. The reaction was stirred at ambient temperature overnight. The voluminous precipitate was dissolved by addition of water (70 mL) and ether (50 mL). The organic layer was separated and the aqueous phase was washed once more with ether. The organic phase was dried (Na2SO4) and evaporated to give a semisolid residue. The product was recrystallized from acetonitrile. Yield of pure product was 5.26 g (60%).

reactant | 2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole | 23.2 mmol, 5.15 g | CC1(OC2=C(O1)C=C1C(OC(O1)(C)C)=C2)C | C12H14O4
reactant | n-butyllithium | 2.5M, 9.29 mL | C(CCC)[Li]
reactant | 4-methoxycarbonyl-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole) | 11.6 mmol, 4.0 g | COC(=O)C1=C2C(SC(S2)(C)C)=CC2=C1SC(S2)(C)C | C14H16O2S4
reactant | water | 70 mL | O | H2O
solvent | ether | 40.0 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | Bis-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)-mono-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole-4-yl)methanol | CC1(OC2=C(O1)C(=C1C(OC(O1)(C)C)=C2)C(O)(C2=C1C(SC(S1)(C)C)=CC1=C2SC(S1)(C)C)C1=C2C(OC(O2)(C)C)=CC2=C1OC(O2)(C)C)C | C37H40O9S4
